US05047411
A solution of 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-7-methylimidazo[1,2-a]pyridine (20.0 g) and ethyl isocyanate (7.7 ml) in a mixture of tetrahydrofuran (200 ml) and methanol (200 ml) was stirred for 2.5 hours at ambient temperature. Evaporation of the solvent gave a residue, which was triturated with ethyl acetate to give a precipitate. The precipitate was collected by filtration and dried to give 2-[2-{4-(3-ethylureido)-3-hydroxyphenyl}ethyl]-7-methylimidazo[1,2-a]pyridine (17.86 g).

reactant | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-7-methylimidazo[1,2-a]pyridine | 20.0 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1)O | C16H17N3O
reactant | ethyl isocyanate | 7.7 ml | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
product | 2-[2-{4-(3-ethylureido)-3-hydroxyphenyl}ethyl]-7-methylimidazo[1,2-a]pyridine | 17.86 g | C(C)NC(NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1)O)=O | C19H22N4O2
